US05071468
1.5g of 5,7-dimethyl-2-(N-[2-chloro-6-(2-ethoxyethoxy)phenyl]-sulphamoyl)-1,2,4-triazolo[1,5-a]pyrimidine (prepared using the procedures described in Preparation Example 1, Variant A, were stirred in dry tetrahydrofuran under dry nitrogen at ambient temperature. To the pale yellow solution was added 60% sodium hydride and a white floccular solid formed over 60 minutes. The tetrahydrofuran was removed and the sodium salt resuspended in dry dimethyl formamide. 0.5g of methyl iodide was added and the mixture stirred under nitrogen overnight at ambient temperature. After concentration of the reaction mixture the residue was treated with water and extracted twice with 20ml of ethyl acetate. The organic phases were combined, dried over magnesium sulphate, filtered and concentrated. The crude product was then purified by flash chromatography to give 1.1g (71% yield) of 5,7-dimethyl-2-(N-methyl-N-[2-chloro-6-(2-ethoxyethoxy)phenyl]-sulphamoyl)-1,2,4-triazolo[1,5-a]pyrimidine (Compound No. 26) as a white solid.

reactant | 5,7-dimethyl-2-(N-[2-chloro-6-(2-ethoxyethoxy)phenyl]-sulphamoyl)-1,2,4-triazolo[1,5-a]pyrimidine | 1.5g | CC1=NC=2N(C(=C1)C)N=C(N2)S(NC2=C(C=CC=C2OCCOCC)Cl)(=O)=O | C17H20ClN5O4S
reactant | sodium hydride | [H-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5,7-dimethyl-2-(N-methyl-N-[2-chloro-6-(2-ethoxyethoxy)phenyl]-sulphamoyl)-1,2,4-triazolo[1,5-a]pyrimidine | 1.1g, 71% yield | CC1=NC=2N(C(=C1)C)N=C(N2)S(N(C2=C(C=CC=C2OCCOCC)Cl)C)(=O)=O | C18H22ClN5O4S
